US04102881
To a solution of 1.6 parts of 7-chloro-2-hydrazino-5-(4-methoxyphenyl)-3H-1,4-benzodiazepine in 50 parts by volume of ethanol is added 3 parts of ethyl orthoformate. To the mixture is added 0.5 part by volume of concentrated sulfuric acid with stirring. After 5 minutes, the reaction mixture is neutralized with a saturated aqueous sodium bicarbonate solution, followed by removal of the solvent. To the residue is added water, whereupon 8-chloro-6-(4-methoxyphenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine is obtained as crystals. Recrystallization from acetone-ethyl acetate gives pale yellow flakes melting at 216°-217° C.

reactant | 7-chloro-2-hydrazino-5-(4-methoxyphenyl)-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN)C2=CC=C(C=C2)OC)C1 | C16H15ClN4O
reactant | ethyl orthoformate | C(OCC)([O-])[O-]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 8-chloro-6-(4-methoxyphenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C=NN3)C3=CC=C(C=C3)OC)C1 | C17H13ClN4O
